US04053606
2,5-Di(acetoxymethyl)pyridine (0.05 mole) is reduced with lithium aluminum hydride (0.025 mole) in tetrahydrofuran (50 ml.) at 0° C. with stirring. After one hour, water is added to decompose excess hydride, and the mixture is concentrated to dryness. The residue is extracted with hot isopropanol (2 × 60 ml.) and the extract is concentrated to dryness to give 2,5-di(hydroxymethyl)-pyridine.

reactant | 2,5-Di(acetoxymethyl)pyridine | 0.05 mole | C(C)(=O)OCC1=NC=C(C=C1)COC(C)=O | C11H13NO4
reactant | lithium aluminum hydride | 0.025 mole | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | O | H2O
reactant | hydride | [H-]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2,5-di(hydroxymethyl)-pyridine | OCC1=NC=C(C=C1)CO | C7H9NO2
